US06248740B1
Production of 2-[6-[3-[4-(diphenylmethoxy)piperidino] propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionic acid
468 mg of ethyl 2-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate was dissolved in 3 ml of ethanol; 2 ml of a 1 N aqueous solution of sodium hydroxide was added, followed by stirring at room temperature for 15 hours. After the mixture was concentrated under reduced pressure, the residue was diluted with water and washed with ethyl acetate; the water layer was adjusted to pH 7 by the addition of 1 N hydrochloric acid, followed by extraction with ethyl acetate-tetrahydrofuran (1:1); the extract was washed with saturated saline and dried with magnesium sulfate. After the dry product was concentrated under reduced pressure, ethyl acetate was added to the residue; the crystal precipitated was collected by filtration, washed with ethyl acetate and dried to yield 267 mg of the title compound.

reactant | ethyl 2-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate | 468 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)C=C(N2)C(C(=O)OCC)(C)C)C2=CC=CC=C2 | C33H41N5O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 2-[6-[3-[4-(diphenylmethoxy)piperidino] propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionic acid | 267 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)C=C(N2)C(C(=O)O)(C)C)C2=CC=CC=C2 | C31H37N5O3
